US04166822
(C) Preparation of 1-isopropylamino-8-hydroxy-anthraquinone
25 g of 1-isopropylamino-8-(β-methoxy-ethoxy)-anthraquinone are dissolved in 75 ml of 75% strength sulphuric acid and the solution is stirred at 130°-135° until no further starting material is detectable in a worked-up sample (approx. 90 minutes being required). The mixture is stirred until it has cooled to 80° and is diluted with 85 ml of water at the same temperature, it is left until the product precipitates as crystals and diluted with a further 41 ml of water at above 50°, the product is filtered off at 50° and rinsed with 35% strength sulphuric acid, the filter residue is decomposed in water and the product is filtered off, washed until neutral and dried in vacuo. Yield: 15.5 g. Quality: 98% pure.

reactant | 1-isopropylamino-8-(β-methoxy-ethoxy)-anthraquinone | 25 g | C(C)(C)NC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)OCCOC)=O | C20H21NO4
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 85 ml | O | H2O
product | 1-isopropylamino-8-hydroxy-anthraquinone | C(C)(C)NC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)O)=O | C17H15NO3
